US07053088B2
[5-(4-tert-Butylphenyl)-6-phenyl-pyridazin-3-yl]-(1H-indol-5-yl)-amine.
Analogous to the procedure used to prepare Example 5(b), 4-(4-tert-butylphenyl)-6-chloro-3-phenylpyridazine, Example 78(d), (95 mg, 0.3 mmol) and 5-aminoindole (39 mg, 0.3 mmol, Aldrich) afforded the title compound as a light-yellow crystalline solid. MS (ESI, pos. ion) m/z: 419 (M+1). MP: 138–140° C.

reactant | 4-(4-tert-butylphenyl)-6-chloro-3-phenylpyridazine | C(C)(C)(C)C1=CC=C(C=C1)C1=C(N=NC(=C1)Cl)C1=CC=CC=C1 | C20H19ClN2
reactant | 5-aminoindole | 0.3 mmol, 39 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
product | [5-(4-tert-Butylphenyl)-6-phenyl-pyridazin-3-yl]-(1H-indol-5-yl)-amine | C(C)(C)(C)C1=CC=C(C=C1)C=1C=C(N=NC1C1=CC=CC=C1)NC=1C=C2C=CNC2=CC1 | C28H26N4
